US09428452B2
N-(2-ethylphenyl)-N-isobutyl-4-vinylbenzenesulfonamide
2-ethyl-N-isobutylaniline (83 mg, 0.468 mmol) was dissolved in pyridine (3 mL) add 4-vinylbenzene-1-sulfonyl chloride (114 mg, 0.562 mmol) added. Reaction stirred for over the weekend. Ethyl acetate (10 mL) was added to the solution and the organic phase was washed with water (10 mL), sodium hydroxide solution (2M, 2×10 mL) and brine (10 mL), then dried and concentrated under vacuum to provide the product, 129 mg. LCMS [LCMS1] Rt 1.43 min, m/z (ES+) 344 (M+H).

reactant | 2-ethyl-N-isobutylaniline | 0.468 mmol, 83 mg | C(C)C1=C(NCC(C)C)C=CC=C1 | C12H19N
reactant | 4-vinylbenzene-1-sulfonyl chloride | 0.562 mmol, 114 mg | C(=C)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO2S
reactant | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-ethylphenyl)-N-isobutyl-4-vinylbenzenesulfonamide | C(C)C1=C(C=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)C=C)CC(C)C | C20H25NO2S
